US07547698B2
SYNTHESIS OF 6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID ETHYL ESTER
To a solution of 6-piperazin-1-ylimidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester (1.016 g, 3.69 mmol) and diisopropylethylamine (1.29 mL, 7.38 mmol) in anhydrous dichloromethane (20 mL) was added 5-fluoro-2-trifluoromethylbenzoyl chloride dropwise at room temperature. The reaction mixture was stirred at room temperature for 15 minutes, then diluted with dichloromethane and washed with water. The organic layer was dried and concentrated in vacuo. The title compound was obtained in 82% yield (1.365 g) after purification by column chromatography.

reactant | 6-piperazin-1-ylimidazo[1,2-b]pyridazine-2-carboxylic acid ethyl ester | 3.69 mmol, 1.016 g | C(C)OC(=O)C=1N=C2N(N=C(C=C2)N2CCNCC2)C1 | C13H17N5O2
reactant | diisopropylethylamine | 7.38 mmol, 1.29 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 5-fluoro-2-trifluoromethylbenzoyl chloride | FC=1C=CC(=C(C(=O)Cl)C1)C(F)(F)F | C8H3ClF4O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6-[4-(5-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]IMIDAZO[1,2-B]PYRIDAZINE-2-CARBOXYLIC ACID ETHYL ESTER | 82% yield | C(C)OC(=O)C=1N=C2N(N=C(C=C2)N2CCN(CC2)C(C2=C(C=CC(=C2)F)C(F)(F)F)=O)C1 | C21H19F4N5O3
